US05925764
Preparation of Ethyl ethoxyacetate
A solution of ethyl chloracetate (100 g, 99% pure, 0.81 mol) in ethanol is treated with ethanolic sodium ethoxide (282.9 g, 20.6% solution, 0.86 mole NaOC2H5) over a 1 hr period at 20° C.-30° C., heated at 40° C.-45° C. for 0.5 hr, cooled to room temperature, treated with diatomaceous earth, stirred for 0.25 hr and filtered. The filtercake is washed with ethanol. The combined filtrates are distilled to obtain the title product as a colorless liquid 75.78 g, 98.8% pure (71% yield), bp 87° C.-88° C./59 mmHg, identified by 13CNMR, 1HNMR and mass spectral analyses.

reactant | ethyl chloracetate | 0.81 mol, 100 g | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethoxide | 0.86 mole, 282.9 g | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Ethyl ethoxyacetate | 75.78 g, 98.8% | C(C)OCC(=O)OCC | C6H12O3
